US06235731B1
2) Synthesis of N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
In a solution of 479 mg (1.18 mmol) of N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (4 ml) was added 1.0 ml (4 mM) of 4N-HCl/methnol and the mixture was stirred at room temperature for several minutes. The solvent was then distilled off under reduced pressure and the residue was diluted with ethanol and diethyl ether. The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.18 mmol, 479 mg | C(C1=CC=CC=C1)N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H24N4OS
reactant | HCl | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C23H24N4OS.2ClH/c28-23(20-13-19-15-24-21-7-4-8-22(29-20)27(19)21)25-14-17-9-11-26(12-10-17)16-18-5-2-1-3-6-18;;/h1-8,13,15,17H,9-12,14,16H2,(H,25,28);2*1H
